US06440968B1
2-phenyl-10,12,15,16-tetrahydroxy-8-methoxy-11-methyl-9,14-dioxo-6,7,9, 14-tetrahydronaphthaceno[1,2-g]phthalazin-1-one (5)
A 5% mixture of madurahydroxylactone in glacial acetic acid is mixed with 2 mole equivalents of phenylhydrazine and boiled under reflux for 30 min. The reaction mixture is then left to stand at room temperature for about 12 hours. The red solid which has crystallized out is filtered off with suction, washed with glacial acetic acid and dried. The crude product is extracted with tetrahydrofuran (THF) in a Soxhlet. On cooling, the product crystallizes out and is filtered off with suction and dried. The yield is about 83% of theory.

reactant | madurahydroxylactone | CC1=C(C=C2C(=C1O)C(=O)C3=C(C4=C(C5=C(C6=C(C=C5CC4)C(OC6=O)O)O)C(=C3C2=O)O)OC)O | C26H18O10
reactant | phenylhydrazine | C1(=CC=CC=C1)NN | C6H8N2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-phenyl-10,12,15,16-tetrahydroxy-8-methoxy-11-methyl-9,14-dioxo-6,7,9, 14-tetrahydronaphthaceno[1,2-g]phthalazin-1-one | yield is about 83% | C1(=CC=CC=C1)N1N=CC=2C=C3C(=C(C2C1=O)O)C1=C(C=2C(C4=CC(=C(C(=C4C(C2C(=C1CC3)OC)=O)O)C)O)=O)O | C32H22N2O8
